US06518423B1
1-Benzyl-2-methyl-4-piperidone
6.97 g of 4-methoxy-2-methylpyridine was dissolved in 200 ml of acetone and 13.5 g of benzyl bromide was added thereto. Then the resulting mixture was heated under reflux for 2 hours and 30 minutes. The reaction mixture was cooled to room temperature and diluted with diethyl ether. The precipitate was taken up by filtration and the solid matter was dissolved in 60 ml of water. Next, 5.35 g of sodium borohydride was added thereto in portions. After stirring for 15 minutes, the reaction mixture was concentrated under reduced pressure, diluted with ethyl acetate, washed successively with water and a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled off under reduced pressure. To the obtained residue was added 5 N hydrochloric acid and the resulting mixture was stirred at room temperature overnight. The reaction mixture was made basic by adding potassium carbonate, extracted with ethyl acetate, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 6.84 g of the title compound as a colorless oily substance.

reactant | 4-methoxy-2-methylpyridine | 6.97 g | COC1=CC(=NC=C1)C | C7H9NO
reactant | benzyl bromide | 13.5 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-Benzyl-2-methyl-4-piperidone | 6.84 g | C(C1=CC=CC=C1)N1C(CC(CC1)=O)C | C13H17NO
